US08420816B2
STEP B: (R)-1-tert-butyl 3-methyl 4-((1-(cyclopentylamino)-4,4,4-trifluoro-1-oxobutan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate
To (R)-2-((1-(tert-butoxycarbonyl)-3-(methoxycarbonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)-4,4,4-trifluorobutanoic acid was added THF (2 mL), HATU (94 mg, 0.246 mmol), cyclopentanamine (70.0 mg, 0.822 mmol) and 4-methylmorpholine (83 mg, 0.822 mmol). The resulting suspension was stirred at 43° C. for 36 h to afford the title compound, which was used in the next step without further purification. [M+H] calc'd for C24H31F3N4O5, 513; found, 513.6.

reactant | (R)-2-((1-(tert-butoxycarbonyl)-3-(methoxycarbonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)-4,4,4-trifluorobutanoic acid | C(C)(C)(C)OC(=O)N1C=C(C=2C1=NC=CC2CN[C@@H](C(=O)O)CC(F)(F)F)C(=O)OC | C19H22F3N3O6
reactant | HATU | 0.246 mmol, 94 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopentanamine | 0.822 mmol, 70.0 mg | C1(CCCC1)N | C5H11N
reactant | 4-methylmorpholine | 0.822 mmol, 83 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (R)-1-tert-butyl 3-methyl 4-((1-(cyclopentylamino)-4,4,4-trifluoro-1-oxobutan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | C1(CCCC1)NC([C@@H](CC(F)(F)F)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)=O | C24H31F3N4O5
